US07132426B2
In a 50 mL round-bottomed flask equipped with a N2 inlet septum was placed a stir bar, NaH (60% in mineral oil, 1.1 g, 30 mmol) and 4-hydroxy-piperidine-1-carboxylic acid isopropyl ester (0.93 g, 5 mmol). THF (anhydrous, 20 mL) was added to the mixture. The resulting suspension was stirred about 30 min at room temperature. 4,8-Dichloro-quinoline (1 g, 0.5 mmol) was then added in one portion. The mixture was stirred overnight under N2 at 80° C. and the resulting slurry turned slightly yellowish. The slurry was added CH2Cl2 and filtered. The filtrate was concentrated under vacuum to give the crude product. Purification by column chromatography gave 4-(8-chloro-quinolin-4-yloxy)-piperidine-1-carboxylic acid isopropyl ester as an off-white solid. 1H NMR (CDCl3, 400 MHz) δ 1.26 (d, 6H), 1.97 (m, 2H), 2.05 (m, 2H), 3.58 (m, 2H), 3.73 (m, 2H), 4.82 (m, 1H), 4.94 (m, 1H), 6.81 (d, 1H), 7.42 (t, 1H), 7.84 (d, 1H), 8.16 (d, 1H), 8.87 (d, 1H). Exact mass calculated for C18H21ClN2O3 348.12, found 349.2 (MH+)

reactant | NaH | 30 mmol, 1.1 g | [H-].[Na+]
reactant | 4-hydroxy-piperidine-1-carboxylic acid isopropyl ester | 5 mmol, 0.93 g | C(C)(C)OC(=O)N1CCC(CC1)O | C9H17NO3
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | 4,8-Dichloro-quinoline | 0.5 mmol, 1 g | ClC1=CC=NC2=C(C=CC=C12)Cl | C9H5Cl2N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(8-chloro-quinolin-4-yloxy)-piperidine-1-carboxylic acid isopropyl ester | C(C)(C)OC(=O)N1CCC(CC1)OC1=CC=NC2=C(C=CC=C12)Cl | C18H21ClN2O3
